US05545651
Part B. Preparation of N-phenyl-2-(aminocarbonyl)ethyl 4-ethyl-2-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]imidazole-5-carboxylate
A solution of 0.05 g N-phenyl-2-(aminocarbonyl)ethyl 4-ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl) )biphenyl-4-yl]methyl]imidazole-5-carboxylate in 2.5 mL MeOH was refluxed overnight under N2. The reaction was evaporated to dryness and the residue immediately purified by flash chromatography with 0-5% MeOH/CHCl3 gradient to give 0.0226 g of pure product.

reactant | N-phenyl-2-(aminocarbonyl)ethyl 4-ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl) )biphenyl-4-yl]methyl]imidazole-5-carboxylate | 0.05 g | C(C)C=1N=C(N(C1C(=O)OCCC(=O)NC1=CC=CC=C1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C51H47N7O3
solvent | MeOH | 2.5 mL | CO | CH4O
product | N-phenyl-2-(aminocarbonyl)ethyl 4-ethyl-2-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]imidazole-5-carboxylate | 0.0226 g | C(C)C=1N=C(N(C1C(=O)OCCC(=O)NC1=CC=CC=C1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C32H33N7O3
